US07425568B2
2-[2-(2-Chlorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 485 mg of 2-(2-chlorophenyl)chroman-6-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.9, 0.5 Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 7.62 (dd, 1H, J 7.5, 1.8 Hz), 7.51 (dd, 1H, J 7.6, 1.7 Hz), 7.45-7.40 (m, 2H), 7.21 (dd, 1H, J 9.1, 0.5 Hz), 7.04 (d, 1H, J 2.7 Hz), 6.99 (dd, 1H, J 8.8, 2.7 Hz), 6.94 (d, 1H, 8.8 Hz), 5.40 (dd, 1H, J 10.4, 2.1 Hz), 3.04 (m, 1H), 2.80 (m, 1H), 2.24 (m, 1H), 1.95 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(2-chlorophenyl)chroman-6-ol | 485 mg | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H13ClO2
product | 2-[2-(2-Chlorophenyl)chroman-6-yloxy]-5-nitropyridine | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15ClN2O4
